US04792554
(2) 4-[(2-(4-benzyl-1-piperazinyl)ethyl)amino]-2,6-dimethyl-3-nitropyridine trihydrochloride
13.3 g (0.05 mol) of 4-(2-chloroethylamino)-2,6-dimethyl-3-nitropyridine, 8.56 g (0.075 mole) of 1-formylpiperazine and 10 g (0.1 mol) of triethylamine were heated to boiling in 300 ml of isopropanol for 10 hours. The liquids were removed by distillation in vacuo, and the remaining solid residue was partitioned between dichloromethane an water by shaking. The dichloromethane phase was evaporated, and the residue was recrystallized once from isopropanol and heated to boiling in 6N hydrochloric acid for 2 hours. The solution was then adjusted to pH 7 with 10% strength sodium hydroxide solution, and the water was removed by distillation. The solid residue was purified on silica gel using dichloromethane/methanol (8:2; vol). 4.5 g (0.016 mol) [31.8% of theory] of 2,6-dimethyl-3-nitro-4-[(2-(1-piperazinyl)ethyl)amino]pyridine (melting point of the trihydrochloride 128°-129° C.) were obtained and were heated to reflux with 2.15 g (0.017 mol) of benzyl chloride and 2 g (0.02 mol) of triethylamine in 100 ml of isopropanol for 6 hours in accordance with process variant (b). The solvents were removed by distillation, and the oily residue was extracted by stirring with ethyl acetate, and the mixture was filtered and the filtrate was evaporated to dryness. The residue was taken up in ethanol, ethanolic HCl was added, nd the mixture was evaporated to dryness. The residue from evaporation was recrystallized from isopropanol/diisopropyl ether (4:1; vol.).

reactant | 4-(2-chloroethylamino)-2,6-dimethyl-3-nitropyridine | 0.05 mol, 13.3 g | ClCCNC1=C(C(=NC(=C1)C)C)[N+](=O)[O-] | C9H12ClN3O2
reactant | 1-formylpiperazine | 0.075 mole, 8.56 g | C(=O)N1CCNCC1 | C5H10N2O
reactant | triethylamine | 0.1 mol, 10 g | C(C)N(CC)CC | C6H15N
reactant | 2,6-dimethyl-3-nitro-4-[(2-(1-piperazinyl)ethyl)amino]pyridine | 0.016 mol, 4.5 g | CC1=NC(=CC(=C1[N+](=O)[O-])NCCN1CCNCC1)C | C13H21N5O2
reactant | benzyl chloride | 0.017 mol, 2.15 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | triethylamine | 0.02 mol, 2 g | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 4-[(2-(4-benzyl-1-piperazinyl)ethyl)amino]-2,6-dimethyl-3-nitropyridine trihydrochloride | Cl.Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)CCNC1=C(C(=NC(=C1)C)C)[N+](=O)[O-] | InChI=1S/C20H27N5O2.3ClH/c1-16-14-19(20(25(26)27)17(2)22-16)21-8-9-23-10-12-24(13-11-23)15-18-6-4-3-5-7-18;;;/h3-7,14H,8-13,15H2,1-2H3,(H,21,22);3*1H
